US03947470
3-[4-(4-Diethylaminobutoxy)benzoyl]-2-phenylbenzofuran
3-[4-(4-Bromobutoxy)benzoyl]-2-phenylbenzofuran (13.0 g., 0.029 mol.) is dissolved in 75 ml. of ethanol containing 8 ml. of diethylamine and refluxed for 24 hours. The solvent is removed under reduced pressure and the residue is dissolved in ether. The ethereal solution is extracted with 5% aqueous sodium hydroxide, water and saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated to give the title compound.

reactant | 3-[4-(4-Bromobutoxy)benzoyl]-2-phenylbenzofuran | 0.029 mol, 13.0 g | BrCCCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1 | C25H21BrO3
reactant | diethylamine | C(C)NCC | C4H11N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 3-[4-(4-Diethylaminobutoxy)benzoyl]-2-phenylbenzofuran | C(C)N(CCCCOC1=CC=C(C(=O)C2=C(OC3=C2C=CC=C3)C3=CC=CC=C3)C=C1)CC | C29H31NO3
